US04612321
In 80 ml of anhydrous tetrahydrofuran was dissolved 8.86 ml of diisopropylamine. The solution was cooled to -10°, to which was added dropwise 39.5 ml of a hexanoic solution of n-butyl lithium (1.6M). Then, the mixture was stirred for 30 minutes at the same temperature, followed by dropwise addition of 5.34 g of β-picoline. The mixture was stirred for 30 minutes, to which was added dropwise 5 g of 5-methoxycarbonyl indane dissolved in 10 ml of anhydrous tetrohydrofuran. Then, the mixture was stirred for one hour at room temperature, followed by addition of about 25 ml of water. The organic solvent was exaporated off under reduced pressure. The concentrated solution was subjected to extraction with ethylacetate. The extract solution was washed with water, dried on magnesium sulfate and concentrated. The concentrate was crystallized from ethylacetate-isopropylether to give 5.6 g (yield 82%) of 1-(5-indanyl)-2-(3-pyridyl)-ethanone, m.p. 55°-56° C.

reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | β-picoline | 5.34 g | N1=CC(=CC=C1)C | C6H7N
reactant | 5-methoxycarbonyl indane | 5 g | COC(=O)C=1C=C2CCCC2=CC1 | C11H12O2
reactant | water | about 25 ml | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | diisopropylamine | 8.86 ml | C(C)(C)NC(C)C | C6H15N
product | 1-(5-indanyl)-2-(3-pyridyl)-ethanone | 5.6 g, yield 82% | C1CCC2=CC(=CC=C12)C(CC=1C=NC=CC1)=O | C16H15NO
